US05661169
3-(1-Benzylpiperid-4-yl)-5-chloro-1,3-dihydro-2H-benzimidazol-2-one
A solution of 38.4 g of 2,4-dichloro-1-nitrobenzene in 160 ml of 2-ethoxyethanol is heated to 100° C. A solution of 152.23 g of N-benzyl-4-aminopiperidine in 40 ml of 2-ethoxyethanol is then added slowly. The mixture is maintained at reflux for 5 hours. The solvent is evaporated off under vacuum and the residue is taken up in H2O, extracted with EtOAc, washed with water and dried over Na2SO4, and the solvent is evaporated off under vacuum. The residue is chromatographed on silica, eluting with isopropyl ether. 24.4 g of the expected product are obtained after crystallization from isopropyl ether, mp=84° C.

reactant | 2,4-dichloro-1-nitrobenzene | 38.4 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | N-benzyl-4-aminopiperidine | 152.23 g | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
reactant | 2-ethoxyethanol | 160 ml | C(C)OCCO | C4H10O2
reactant | 2-ethoxyethanol | 40 ml | C(C)OCCO | C4H10O2
product | 3-(1-Benzylpiperid-4-yl)-5-chloro-1,3-dihydro-2H-benzimidazol-2-one | 24.4 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=C1C=C(C=C2)Cl)=O | C19H20ClN3O
